US05948911
Following the procedure of Example 1, the reaction of 3,4-methylenedioxybenzylamine with 2,4-dichloro-5,6-dimethyl-thieno-[2,3-d]-pyrimidine gives 2-chloro-5,6-dimethyl-4-(3,4-methylenedioxybenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 3,4-methylenedioxybenzylamine | C1OC=2C=C(CN)C=CC2O1 | C8H9NO2
reactant | 2,4-dichloro-5,6-dimethyl-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2C)C)Cl | C8H6Cl2N2S
product | 2-chloro-5,6-dimethyl-4-(3,4-methylenedioxybenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2C)C)NCC2=CC1=C(C=C2)OCO1 | C16H14ClN3O2S
